US07160888B2
Synthesis of 5-Methyl-7-{4-[4-(5,6,7,8-tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
The title compound was prepared by reductive amination of 4-(4-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde with 1-(5,6,7,8-tetrahydro-naphthalen-1-yl)-piperazine according to the above procedure. MS: APCI: M+1: 450.0 (Exact Mass: 448.28).

reactant | 4-(4-methyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | CC1=CC(=NC=2NC(CCC12)=O)OCCCC=O | C13H16N2O3
reactant | 1-(5,6,7,8-tetrahydro-naphthalen-1-yl)-piperazine | C1(=CC=CC=2CCCCC12)N1CCNCC1 | C14H20N2
product | 5-Methyl-7-{4-[4-(5,6,7,8-tetrahydro-naphthalen-1-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | CC1=C2CCC(NC2=NC(=C1)OCCCCN1CCN(CC1)C1=CC=CC=2CCCCC12)=O | C27H36N4O2
